US07018537B2
(2R)-N-(3,5-Dimethylphenyl)-2-[(4-chloro-3,5-dinitrophenyl)carbonylamino]propanamide
To the solution of 4-chloro-3,5-dinitrobenzoic acid (1.058 g, 4.29 mmol) and EEDQ (1.062 g, 4.29 mmol) in dichloromethane (25 ml) is added (2R)-2-amino-N-(3,5-dimethylphenyl)propanamide, prepared in Example 5 (0.825 g, 4.29 mmol) in dichloromethane (25 ml). After 16 h of mixing at room temperature the product is recovered on a G-4 filter and washed with dichloromethane (30 ml). The product is dried at 50° C. for 4 h. 1.026 g (56%) of yellowish powder are obtained, mp 202°–204° C.

reactant | 4-chloro-3,5-dinitrobenzoic acid | 4.29 mmol, 1.058 g | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | EEDQ | 4.29 mmol, 1.062 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | (2R)-2-amino-N-(3,5-dimethylphenyl)propanamide | N[C@@H](C(=O)NC1=CC(=CC(=C1)C)C)C | C11H16N2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (2R)-N-(3,5-Dimethylphenyl)-2-[(4-chloro-3,5-dinitrophenyl)carbonylamino]propanamide | CC=1C=C(C=C(C1)C)NC([C@@H](C)NC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])=O | C18H17ClN4O6
